US07781468B2
At 0° C., thionyl chloride (8 mL, 0.11 mmol) was added dropwise to a solution of methanol (100 mL) containing L-tyrosine (17.9 g, 0.1 mmol), before refluxing for 3 h. The resulting solution was concentrated, to which triethylamine (15 mL) and acetonitrile (150 mL) were added, followed by dropping of di-tert-butyl dicarbonate (BOC2O) (23.3 mL, 0.11 mmol). Thereafter, the mixture was stirred for 1.5 h at room temperature. After concentration, the mixture was dissolved with dichloromethane (200 mL), and then washed with 1M NaHSO4 aqueous solution (200 mL), a little of saturated sodium carbonate aqueous solution and water in turn. The organic layer was then dried over anhydrous MgSO4, followed by concentration to give 26.0 g of (2S)-3-(4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester as a white solid with a yield of 90%.

reactant | thionyl chloride | 0.11 mmol, 8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | L-tyrosine | 0.1 mmol, 17.9 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | di-tert-butyl dicarbonate | 0.11 mmol, 23.3 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanol | 100 mL | CO | CH4O
product | (2S)-3-(4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 26.0 g, yield of 90% | COC([C@H](CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C15H21NO5
